US04814329
5-Benzyl-2-(2-hydroxy-1-propylthio)-benzimidazole
4.8 (20 mmoles) of 5-benzyl-benzimidazoline-2-thione and 0.46 g sodium dissolved in ethyl alcohol and 2 ml of 1,2-propylenoxide are refluxed for 5 hours. The reaction mixture is evaporated and 50 ml of benzene and 20 ml of 1N sodium hydroxide solution are added. The aqueous phase is extracted twice with 10 ml of benzene, the combined benzene phases are evaporated and the residue is crystallized from nitromethane. The title product thus obtained melts at a temperature of 115° C.

reactant | 5-benzyl-benzimidazoline-2-thione | C(C1=CC=CC=C1)C1=CC2=C(NC(N2)=S)C=C1 | C14H12N2S
reactant | sodium | 0.46 g | [Na] | Na
reactant | 1,2-propylenoxide | 2 ml | C1C(C)O1 | C3H6O
solvent | ethyl alcohol | C(C)O | C2H6O
product | 5-Benzyl-2-(2-hydroxy-1-propylthio)-benzimidazole | C(C1=CC=CC=C1)C1=CC2=C(N=C(N2)SCC(C)O)C=C1 | C17H18N2OS
